US06900209B2
Step 5: {6-[3-(5-Methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]pyridin-3-yl}methanol
A solution of 6-[5(tert-butyldimethylsilyloxymethyl)pyridin-2-ylmethyloxy]-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine (1.4 g, 2.78 mmol) in AcOH/THF/H2O [3:1:1, 50 ml] was stirred at room temperature for 36 h. The mixture was concentrated under reduced pressure and then azeotroped with toluene (2×50 ml). The material was used without further purification.

reactant | 6-[5(tert-butyldimethylsilyloxymethyl)pyridin-2-ylmethyloxy]-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine | 2.78 mmol, 1.4 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)COC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C | C26H30N6O3Si
solvent | AcOH THF H2O | 50 ml | CC(=O)O.C1CCOC1.O
product | {6-[3-(5-Methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]pyridin-3-yl}methanol | CC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=CC=C(C=N2)CO | C20H16N6O3
